US07129268B2
A mixture of 4acetoxy-2,6diphenylphenol (6.1 g, 20 mmol; prepared as described in Ber. 101, 2519 (1968)), ethyl bromoacetate )4.0 g, 24 mmol), potassium carbonate (3.3 g, 24 mmol) and 2-butanone (150 ml) was refluxed for 24 h, then filtered and the solvent evaporated. The residue was purified by chromatography on silica gel) 120 g, eluent benzene) to give 7.2 g (92%) of oily ethyl 4-acetoxy-2,6-diphenylphenoxyacetate.

reactant | 4acetoxy-2,6diphenylphenol | 20 mmol, 6.1 g | C(C)(=O)OC1=CC(=C(C(=C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C20H16O3
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 24 mmol, 3.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 150 ml | CC(CC)=O | C4H8O
product | ethyl 4-acetoxy-2,6-diphenylphenoxyacetate | 7.2 g, 92% | C(C)(=O)OC1=CC(=C(OCC(=O)OCC)C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H22O5
